US08076326B2
N-(2-Difluoromethoxy-5-methyl-phenyl)-4-methoxy-3-(4-methyl-piperazin-1-yl)-benzenesulfonamide hydrochloride
0.429 g N-(2-(difluoromethoxy)-5-methylphenyl)-4-methoxy-3-(piperazin-1-yl)benzenesulfonamide (1.004 mmol) were dissolved in 5 mL of dichloromethane. 0.086 mL of acetic acid (1.505 mmol) and 0.319 g of sodium triacetoxyborohydride (3.01 mmol) were added. After stirring for 10 min, 0.083 mL of aqueous formaldehyde solution (3.01 mmol) were added and the reaction stirred for 72 h at room temperature. The solvents were evaporated and the residue purified via preparative silica gel chromatography (Super Flash cartridge (Interchim)) using a dichloromethane (+0.1% triethylamine) and methanol gradient as eluent. Fractions containing the product were combined, the solvents evaporated, and the product converted to the hydrochloride salt by addition of hydrochloric acid in diethyl ether and subsequent evaporation to dryness (yield 0.169 g of product).

reactant | N-(2-(difluoromethoxy)-5-methylphenyl)-4-methoxy-3-(piperazin-1-yl)benzenesulfonamide | 1.004 mmol, 0.429 g | FC(OC1=C(C=C(C=C1)C)NS(=O)(=O)C1=CC(=C(C=C1)OC)N1CCNCC1)F | C19H23F2N3O4S
reactant | acetic acid | 1.505 mmol, 0.086 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.01 mmol, 0.319 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 3.01 mmol, 0.083 mL | C=O | CH2O
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-Difluoromethoxy-5-methyl-phenyl)-4-methoxy-3-(4-methyl-piperazin-1-yl)-benzenesulfonamide hydrochloride | Cl.FC(OC1=C(C=C(C=C1)C)NS(=O)(=O)C1=CC(=C(C=C1)OC)N1CCN(CC1)C)F | InChI=1S/C20H25F2N3O4S.ClH/c1-14-4-6-18(29-20(21)22)16(12-14)23-30(26,27)15-5-7-19(28-3)17(13-15)25-10-8-24(2)9-11-25;/h4-7,12-13,20,23H,8-11H2,1-3H3;1H
